US08541449B2
C-(1,4-Dioxa-spiro[4.5]dec-8-yl)-C-(4-methoxy-phenyl)-methylamine (32)
Under argon, 4-methoxy-phenylmagnesium bromide (0.5M in THF, 24 mL, 12 mmol) was added to a solution of 1,4-dioxa-spiro[4.5]decane-8-carbonitrile (1.0 g, 6 mmol) in THF (100 mL). The mixture was stirred under reflux for 16 hours. The reaction mixture was then cooled to 0° C. Saturated sodium sulphate solution was added dropwise until no more precipitate formed. The precipitate was removed by filtration and washed with THF. The combined organic phases were stirred with sodium borohydride (452 mg, 12 mmol) overnight at 25° C. The reaction mixture was then diluted with t-butyl methyl ether (100 mL) and treated with 0.05M aqueous hydrochloric acid (three times with 100 mL). The combined aqueous phases were adjusted to alkaline pH with a 6M aqueous sodium hydroxide solution with cooling, before extraction with dichloromethane gave a solution of the desired product which was used directly in the next stage. Rt=0.74 min (Method 5). Detected mass: 278.2 (M+H+).

reactant | 4-methoxy-phenylmagnesium bromide | 12 mmol, 0.5M, 24 mL | COC1=CC=C(C=C1)[Mg]Br
reactant | 1,4-dioxa-spiro[4.5]decane-8-carbonitrile | 6 mmol, 1.0 g | O1CCOC12CCC(CC2)C#N | C9H13NO2
reactant | sodium sulphate | S(=O)(=O)([O-])[O-].[Na+].[Na+]
reactant | sodium borohydride | 12 mmol, 452 mg | [BH4-].[Na+]
reactant | hydrochloric acid | 0.05M, 100 mL | Cl | ClH
reactant | sodium hydroxide | 6M | [OH-].[Na+]
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | t-butyl methyl ether | 100 mL | COC(C)(C)C | C5H12O
solvent | dichloromethane | ClCCl | CH2Cl2
product | C-(1,4-Dioxa-spiro[4.5]dec-8-yl)-C-(4-methoxy-phenyl)-methylamine | O1CCOC12CCC(CC2)C(C2=CC=C(C=C2)OC)N | C16H23NO3
